US07034039B2
To a solution of 4-bromophthalic anhydride (50 g, 220 mmol) in fluorobenzene (300 mL) was added aluminum chloride (60 g, 450 mmol) by small portions under ice-cooling. The-obtained mixture was stirred at room temperature for 15 h. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-diisopropyl ether and the precipitated crystals were collected by filtration. The crystals were recrystallized from ethyl acetate to give a solid of a mixture (9:1)(7 g, 10%) of 2-(4-fluorobenzoyl)-4-bromobenzoic acid and 2-(4-fluorobenzoyl)-5-bromobenzoic acid. (2-(4-fluorobenzoyl)-4-bromobenzoic acid: 1H-NMR(CDCl3) δ: 7.06–7.17 (2H, m), 7.50 (1H, d, J=2.0 Hz), 7.69–7.79 (3H, m), 7.95 (1H, d, J=8.4 Hz).

reactant | 4-bromophthalic anhydride | 220 mmol, 50 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | aluminum chloride | 450 mmol, 60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 300 mL | FC1=CC=CC=C1 | C6H5F
product | 2-(4-fluorobenzoyl)-4-bromobenzoic acid | 7 g, 10% | FC1=CC=C(C(=O)C2=C(C(=O)O)C=CC(=C2)Br)C=C1 | C14H8BrFO3
